US05143912
A suspension of 45.7 g of 4-amino-4,6-dihydro-6-oxo-7-phenylthieno[2',3':3,4]pyrrolo[1,2-a]pyridine-9-carboxylic acid in 915 ml of acetic acid was treated with 27.6 g of zinc powder and heated to boiling under reflux for 2 hours. The suspension was then cooled and poured into 3000 ml of water. The excess zinc was for the most part removed by decantation. The separated crystals were filtered off under suction and dried in a vacuum. There was obtained 42.4 g of 4,6-dihydro-6-oxo-7-phenylthieno[2',3':3,4]-pyrrolo[1,2-a]pyridine-9-carboxylic acid with a m.p. of >300° (purity 85-90%). This material was purified further by recrystallization from methanol/N,N-dimethylformamide.

reactant | 4-amino-4,6-dihydro-6-oxo-7-phenylthieno[2',3':3,4]pyrrolo[1,2-a]pyridine-9-carboxylic acid | 45.7 g | NC1C2=C(C=3N1C(C(=CC3C(=O)O)C3=CC=CC=C3)=O)SC=C2 | C17H12N2O3S
reactant | water | 3000 ml | O | H2O
solvent | acetic acid | 915 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 27.6 g | [Zn] | Zn
product | 4,6-dihydro-6-oxo-7-phenylthieno[2',3':3,4]-pyrrolo[1,2-a]pyridine-9-carboxylic acid | 42.4 g | O=C1C(=CC(=C2N1CC1=C2SC=C1)C(=O)O)C1=CC=CC=C1 | C17H11NO3S
